US04624964
(b) Methyl 7-oxo-7-[2-(phenylmethyl)phenyl]-5-heptynoate
To a stirred mixture of 0.3 g (0.93 mmol) methyl 7-hydroxy-7-[2-(phenylmethyl)phenyl]-5-heptynoate in 20.0 ml methylene chloride at room temperature was added 0.5 g (2.32 mmol) of pyridinium chlorochromate (PCC). The mixture was stirred for 2 hours and 80.0 ml of diethylether was added to the reaction mixture. The reaction mixture was filtered through Florisil® brand magnesium silicate evaporated to an oil and purified by flash chromatography to give the title compound in 67% yield (200 mg; 0.625 mmol). NMR (CDCl3, 200 MHz) δ: 2.0 (m, 2H), 2.5 (m, 4H), 3.67 (s, 3H), 4.40 (s, 2H), 7.12-8.25 (m, 9H). Mass spectrum: m/z=320 (M+).

reactant | methyl 7-hydroxy-7-[2-(phenylmethyl)phenyl]-5-heptynoate | 0.93 mmol, 0.3 g | OC(C#CCCCC(=O)OC)C1=C(C=CC=C1)CC1=CC=CC=C1 | C21H22O3
reactant | pyridinium chlorochromate | 2.32 mmol, 0.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | diethylether | 80.0 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 20.0 ml | C(Cl)Cl | CH2Cl2
product | Methyl 7-oxo-7-[2-(phenylmethyl)phenyl]-5-heptynoate | 67% yield | O=C(C#CCCCC(=O)OC)C1=C(C=CC=C1)CC1=CC=CC=C1 | C21H20O3
